US04406829
A mixture of 12 g of (1R,trans) 2,2-dimethyl-3-cyclobutylidenemethyl-cyclopropane-1-carboxylic acid chloride in 25 ml of isopropanol was stirred for 8 hours and was distilled to dryness at 45° C. under reduced pressure. The residue was taken up in isopropyl ether and the solution was washed with water, dried and evaporated to dryness under reduced pressure at 45° C. The residue was chromatographed over silica gel and was eluted with a 9-1 petroleum ether (b.p.=60°-80° C.)-isopropyl ether mixture to recover the fraction with an Rf=0.35. The solvent was evaporated under reduced pressure to obtain 7.8 g of isopropyl (1R,trans) 2,2-dimethyl-3-cyclobutylidenemethyl-cyclopropane-1-carboxylate with a boiling point of 64°-66° C. at 0.1 mm Hg and a specific rotation of [α]D20 =-24.5° (c=2% in chloroform).

reactant | (1R,trans) 2,2-dimethyl-3-cyclobutylidenemethyl-cyclopropane-1-carboxylic acid chloride | 12 g | CC1([C@@H]([C@H]1C=C1CCC1)C(=O)Cl)C | C11H15ClO
reactant | isopropanol | 25 ml | C(C)(C)O | C3H8O
product | isopropyl (1R,trans) 2,2-dimethyl-3-cyclobutylidenemethyl-cyclopropane-1-carboxylate | 7.8 g | CC1([C@@H]([C@H]1C=C1CCC1)C(=O)OC(C)C)C | C14H22O2
